US07259177B2
Ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclo-hexyl}butyrate
190 mg of ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-yl-methoxy]cyclohexyl}but-2-enoate are dissolved in 25 ml of methanol, and 20 mg of Pd (10% on activated carbon) are added. The mixture is stirred at room temperature and under an atmosphere of hydrogen for 7 hours. The catalyst is filtered off through Celite and the filtrate is concentrated under reduced pressure. This gives 110 mg of ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}butyrate as an oil. C24H33NO5 (415.53), MS(ESI): 416 (M+H+).

reactant | ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-yl-methoxy]cyclohexyl}but-2-enoate | 190 mg | COC=1C=C(C=CC1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)CC=CC(=O)OCC)C | C24H31NO5
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd | 20 mg | [Pd] | Pd
product | Ethyl 4-{cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclo-hexyl}butyrate | COC=1C=C(C=CC1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)CCCC(=O)OCC)C | C24H33NO5
